US04507297
Under cooling with ice, a 0.48N sodium hydroxide-ethanol solution (9.48 ml) was added to an ethanol solution (20 ml) of ethyl trans-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate (2.38 g) obtained above, and the mixture was stirred at room temperature for 2.5 hours. After removal of ethanol by distillation under reduced pressure, water was added, and any insoluble matters were removed by filtration using sellaite. The filtrate was concentrated and dried under reduced pressure to yield 2.31 g of sodium trans-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate as a light yellow powder (yield: 98%).

reactant | sodium hydroxide ethanol | 0.48N, 9.48 ml | [OH-].[Na+].C(C)O
reactant | ethyl trans-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate | 2.38 g | CC(C[C@@H](C(=O)N1CCN(CC1)CC1=C(C(=C(C=C1)OC)OC)OC)NC(=O)[C@H]1[C@@H](O1)C(=O)OCC)C | C26H39N3O8
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | sodium trans-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate | 2.31 g, yield: 98% | CC(C[C@@H](C(=O)N1CCN(CC1)CC1=C(C(=C(C=C1)OC)OC)OC)NC(=O)[C@H]1[C@@H](O1)C(=O)[O-])C.[Na+] | InChI=1S/C24H35N3O8.Na/c1-14(2)12-16(25-22(28)20-21(35-20)24(30)31)23(29)27-10-8-26(9-11-27)13-15-6-7-17(32-3)19(34-5)18(15)33-4;/h6-7,14,16,20-21H,8-13H2,1-5H3,(H,25,28)(H,30,31);/q;+1/p-1/t16-,20+,21+;/m0./s1
